US05801202
Synthesis of 1-[bis(2-hydroxyethyl)amino)-3-(12-methylhexadecyloxy)-2-propanol [=Compound (1-9), and n=11 in formula (1)]:
In a 10 ml round bottomed flask, 12-methylhexadecylglycidylether (100 mg, 0.32 mmol), diethanolamine (35 mg, 0.33 mmol), and ethanol (1 ml) were placed. The content of the flask was stirred for 1 hour at 80° C. in a nitrogen atmosphere. The mixture was condensed under reduced pressure, and the resulting residue was purified by silica gel flush chromatography. As a result, 88 mg of the title compound was obtained as a pale yellow oil (yield: 66%).

reactant | 12-methylhexadecylglycidylether | 0.32 mmol, 100 mg | CC(CCCCCCCCCCCOCC1CO1)CCCC | C20H40O2
reactant | diethanolamine | 0.33 mmol, 35 mg | N(CCO)CCO | C4H11NO2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-[bis(2-hydroxyethyl)amino)-3-(12-methylhexadecyloxy)-2-propanol | 88 mg | OCCN(CC(COCCCCCCCCCCCC(CCCC)C)O)CCO | C24H51NO4
